US05162316
7-Acetamido-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4.5-d]pyrimidine
A stirred mixture of 7-amino-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (0.59 g)and acetic anhydride (5 ml) was heated under reflux for 1.5 hours Excess acetic anhydride was removed under reduced pressure. The solid residue was washed with water and triturated with hot methanol to yield the title compound, 0.57 g, m.p. 273°-4° C.

reactant | 7-amino-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 0.59 g | NC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C15H15N5O2
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 7-Acetamido-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4.5-d]pyrimidine | C(C)(=O)NC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C17H17N5O3
